US05169426
3.5 parts by weight of 2-butyryl-5-(3,4-epoxycyclohexyl)-cyclohexane-1,3-dione and 0.8 part by weight of ethoxyamine in 100 parts by volume of methanol were stirred for 16 hours at room temperature. The solvent was distilled off under reduced pressure, the residue was dissolved in dichloromethane, the solution was washed with 5% strength by weight hydrochloric acid and water and dried over sodium sulfate, and the solvent was distilled off under reduced pressure. 2-(1-Ethoxyiminobutyl)-5-(3,4-epoxycyclohexyl)-3-hydroxycyclohex-2-en-1-one (active ingredient No. 2) was obtained.

reactant | 2-butyryl-5-(3,4-epoxycyclohexyl)-cyclohexane-1,3-dione | C(CCC)(=O)C1C(CC(CC1=O)C1CC2C(CC1)O2)=O | C16H22O4
reactant | ethoxyamine | C(C)ON | C2H7NO
solvent | methanol | CO | CH4O
product | 2-(1-Ethoxyiminobutyl)-5-(3,4-epoxycyclohexyl)-3-hydroxycyclohex-2-en-1-one | C(C)ON=C(CCC)C=1C(CC(CC1O)C1CC2C(CC1)O2)=O | C18H27NO4
